US08981085B2
Pivaloyl chloride (0.12 mL, 0.98 mmol) was added to 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (0.15 g, 0.65 mmol) in pyridine (5 mL). The reaction was stirred at room temperature for 10 minutes, and then the pyridine was removed. THF (5 mL) and 2N LiOH (3 mL) were added and stirred for 20 minutes. The THF was removed in vacuo, and water (20 mL) was added to the aqueous residue. The solid formed was collected by filtration and dried to give N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)pivalamide (0.128 g, 62% yield) as a solid.

reactant | Pivaloyl chloride | 0.98 mmol, 0.12 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 0.65 mmol, 0.15 g | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)pivalamide | 0.128 g, 62% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C(C)(C)C)=O)F | C12H13BrFN3O
